US06720320B2
4-(8-methoxy-2H-chromen-3-ylcarbonyl)morpholine
To a solution (200 ml) of 8-methoxy-2H-chromene-3-carboxylic acid (10.0 g) in DMF were added triethylamine (8.6 ml) and diethyl cyanophosphate (10.0 ml) and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/ethyl acetate) to give the title compound (3.5 g) as a brown oil.

reactant | 8-methoxy-2H-chromene-3-carboxylic acid | 200 ml, 10.0 g | COC=1C=CC=C2C=C(COC12)C(=O)O | C11H10O4
reactant | triethylamine | 8.6 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 10.0 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(8-methoxy-2H-chromen-3-ylcarbonyl)morpholine | 3.5 g | COC=1C=CC=C2C=C(COC12)C(=O)N1CCOCC1 | C15H17NO4
